US09212155B2
A solution of 3-(4-chlorophenoxy)-3-methylbutyronitrile (60.4 mmol) in DMSO (75 mL) is treated with H2O2 (50% w/w) (434 mmol) and potassium carbonate (121 mmol) at zero degrees Celsius. The reaction mixture is stirred at room temperature over the weekend. The reaction mixture is transferred into a separatory funnel using water (100 mL) and CH2Cl2 (200 mL). The mixture is equilibrated and the CH2Cl2 layer is removed. The aqueous layer is extracted two additional times with CH2Cl2 (2×300 mL). The combined CH2Cl2 extracts are washed 5 consecutive times with water (5×200 mL) followed by a brine (500 mL) wash, dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure, which affords 3-(4-chlorophenoxy)-3-methylbutyramide.

reactant | 3-(4-chlorophenoxy)-3-methylbutyronitrile | 60.4 mmol | ClC1=CC=C(OC(CC#N)(C)C)C=C1 | C11H12ClNO
reactant | H2O2 | 434 mmol | OO | H2O2
reactant | potassium carbonate | 121 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-chlorophenoxy)-3-methylbutyramide | ClC1=CC=C(OC(CC(=O)N)(C)C)C=C1 | C11H14ClNO2
